US05081131
The starting amine, (3-pyridinyl)methyloxyethylamine, was prepared by the following procedure: reaction of the sodium salt of 3-pyridinylmethanol and chloracetonitrile in dimethylformamide gave 2-(3-pyridinyloxy)acetonitrile, which, upon reduction with borane in tetrahydroduran solution, gave the desired amine.

reactant | (3-pyridinyl)methyloxyethylamine | N1=CC(=CC=C1)COCCN | C8H12N2O
reactant | sodium | [Na] | Na
reactant | 3-pyridinylmethanol | N1=CC(=CC=C1)CO | C6H7NO
reactant | chloracetonitrile | ClCC#N | C2H2ClN
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(3-pyridinyloxy)acetonitrile | N1=CC(=CC=C1)OCC#N | C7H6N2O
